US08466200B2
Acetic acid 4-[((S)-3-methyl-piperidine-1-carbonyl)-amino]-adamantan-1-yl ester
A mixture of (S)-3-Methyl-piperidine-1-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide 0.15 g (0.51 mmol), 0.109 ml of acetyl chloride, 0.3 ml of pyridine in 1.5 ml of methylene chloride was stirred at room temperature overnight. A saturated NaHCO3 solution was added, the organic phase extracted with methylene chloride, washed with HCl 1 N solution and dried over sodium sulphate. Flash chromatography on silica gel (eluant CH2Cl2/MeOH: 95/05) yielded 75 mg of the title compound

reactant | (S)-3-Methyl-piperidine-1-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide | 0.51 mmol, 0.15 g | OC12CC3C(C(CC(C1)C3)C2)NC(=O)N2C[C@H](CCC2)C | C17H28N2O2
reactant | acetyl chloride | 0.109 ml | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-[((S)-3-methyl-piperidine-1-carbonyl)-amino]-adamantan-1-yl ester | 75 mg | C[C@@H]1CN(CCC1)C(=O)NC1C2CC3(CC(CC1C3)C2)OC(C)=O | C19H30N2O3
